US05082932
a) 1-Nitroso-6-bromo-β-naphthol
76.2 g (0.342 mol) of 6-bromo-β-naphthol were suspended in 385 ml of 90%-strength acetic acid and nitrosated for two hours at 4° C. with 28.5 g (0.413 mol) of sodium nitrite in 230 ml of water, and stirring was then continued for 23 h at room temperature. The suspension was then made up to twice its volume by filling up with water and the product formed was filtered off by suction. After drying, 83.8 g (97.3%) of crude 1-nitroso-6-bromo-β-naphthol whose purity is adequate for the further reaction was obtained.

reactant | 6-bromo-β-naphthol | 0.342 mol, 76.2 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.413 mol, 28.5 g | N(=O)[O-].[Na+]
solvent | water | 230 ml | O | H2O
product | 1-Nitroso-6-bromo-β-naphthol | N(=O)C1=C(C=CC2=CC(=CC=C12)Br)O | C10H6BrNO2
